US04886835
The procedure is as in Example 4, starting with ethyl 2-dimethylamino-5-methylthio-6-oxo-6-(4-piperidinophenyl)-2,4-hexadienoate (23.5 g) and 1N hydrochloric acid (139 cc) in ethanol (139 cc). The mixture is stirred for 16 hours at a temperature in the region of 20° C. After purification by chromatrography on a silica column with dichloromethane as eluent and a second chromatography on a second silica column with a mixture of cyclohexane and ethyl acetate (50:50 by volume) as eluents; the corresponding eluate is concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is recrystallized in boiling isopropyl ether (100 cc). Ethyl 2-hydroxy-5-methylthio-6-oxo-6-(4-piperidinophenyl)-2,4-hexadienoate (3 g), m.p. 65° C., is thereby obtained.

reactant | ethyl 2-dimethylamino-5-methylthio-6-oxo-6-(4-piperidinophenyl)-2,4-hexadienoate | 23.5 g | CN(C(C(=O)OCC)=CC=C(C(C1=CC=C(C=C1)N1CCCCC1)=O)SC)C | C22H30N2O3S
reactant | hydrochloric acid | 1N, 139 cc | Cl | ClH
reactant | ethanol | 139 cc | C(C)O | C2H6O
product | Ethyl 2-hydroxy-5-methylthio-6-oxo-6-(4-piperidinophenyl)-2,4-hexadienoate | 3 g | OC(C(=O)OCC)=CC=C(C(C1=CC=C(C=C1)N1CCCCC1)=O)SC | C20H25NO4S
